US04289914
PREPARATION OF 2-METHYL-2-(3-HYDROXY-1,1-DIMETHYLBUTYLPEROXY)-4-PENTANONE
A mixture of 19.60 g. (0.20 mole) of mesityl oxide, 36.90 g. (0.25 mole) of 3-hydroxy-1,1-dimethylbutyl hydroperoxide (90%) and 10 g. of Amberlyst 15® sulfuric acid type ion exchange resin was stirred for 16 hours at 30° C. The resin was separated by filtration and the filtrate subjected to steam distillation at 20 torr in the presence of sodium bicarbonate to maintain a slightly alkaline pH during the distillation. The distillation was ended when the removal of unreacted mesityl oxide was complete.

reactant | mesityl oxide | 0.20 mole | O=C(C)C=C(C)C | C6H10O
reactant | 3-hydroxy-1,1-dimethylbutyl hydroperoxide | 0.25 mole | OC(CC(C)(C)OO)C | C6H14O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-METHYL-2-(3-HYDROXY-1,1-DIMETHYLBUTYLPEROXY)-4-PENTANONE | CC(C)(CC(C)=O)OOC(CC(C)O)(C)C | C12H24O4
